US04492692
A mixture of t-butyl 3-methyl-7-aminoceph-3-em-4-carboxylate toluene-p-sulphonate (0.442 g.) and 2-fluoro-4-(2-trifluoroacetylaminoethyl)imidazole (0.45 g.) was stirred in acetonitrile (dried over molecular sieve, 10 ml.) at 70°-75° for 1.5 hours. The mixture was filtered and the filtrate purified on silica gel (500 g.) eluted with methylene chloride containing 1%, 2%, 3%, 4% and finally 5% v/v methanol. The relevant fractions were combined to give t-butyl 3-methyl-7-[4-(2-trifluoroacetylaminoethyl)imidazol-2-yl]aminoceph-3-em-4-carboxylate (0.34 g.) which was used without further purification.

reactant | t-butyl 3-methyl-7-aminoceph-3-em-4-carboxylate toluene-p-sulphonate | 0.442 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.CC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C(C2N)=O
reactant | 2-fluoro-4-(2-trifluoroacetylaminoethyl)imidazole | 0.45 g | FC=1NC=C(N1)CCNC(C(F)(F)F)=O | C7H7F4N3O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | t-butyl 3-methyl-7-[4-(2-trifluoroacetylaminoethyl)imidazol-2-yl]aminoceph-3-em-4-carboxylate | 0.34 g | CC=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C(C2NC=2NC=C(N2)CCNC(C(F)(F)F)=O)=O | C19H24F3N5O4S
